US05466661
Dry anisole (6 ml) and aluminium chloride (0.59 g) were added to 2-(2,4-dichlorobenzyloxy)-α-(1-imidazolyl)benzaldehyde O-methyloxime (0.75 g), and the mixture was stirred under ice-cooling for 2 hours. After completion of the reaction, a half-saturated aqueous solution of sodium bicarbonate (100 ml) was added slowly, and the mixture was extracted with ether (50 ml) and ethyl acetate (50 ml), dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting crude product was purified by silica gel chromatography and recrystallized from ethyl acetate/n-hexane to give 2-hydroxy-α-(1-imidazolyl)benzaldehyde O-methyloxime (0.34 g) as colorless crystals. mp. 103.5°-104.5° C.

reactant | anisole | 6 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | aluminium chloride | 0.59 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-(2,4-dichlorobenzyloxy)-α-(1-imidazolyl)benzaldehyde O-methyloxime | 0.75 g | CON=C(C1=C(C=CC=C1)OCC1=C(C=C(C=C1)Cl)Cl)N1C=NC=C1 | C18H15Cl2N3O2
solvent | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
product | 2-hydroxy-α-(1-imidazolyl)benzaldehyde O-methyloxime | 0.34 g | CON=C(C1=C(C=CC=C1)O)N1C=NC=C1 | C11H11N3O2
